data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_573546_2,[C:1]([O:6][C:4]1([C:2]([H:15])([H:16])[H:17])[N:7]=[C:5]([H:11])/[C:3](=[N:8]/[H:10])[O:9]1)([H:12])([H:13])[H:14]>>[C:1]([O:6][C:3](/[C:5](=[N:7]\[C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])[H:11])=[N:8]\[H:10])([H:12])([H:13])[H:14],66.06319999999585
MR_415966_1,[C:1](/[C:3]([O:6][H:9])=[N:7]/[N:2](/[C:4]([N:5]([H:11])[H:12])=[N:8]\[H:13])[H:10])([H:14])([H:15])[H:16]>>[C:1]([C:3]([N:5]([H:11])[H:12])([O:6][H:9])[N:7]1[N:2]([H:10])/[C:4]1=[N:8]\[H:13])([H:14])([H:15])[H:16],68.97605499998946
MR_494882_0,[C:1]([N:2](/[C:3]([N:5]([H:12])[H:13])=[N:8]/[O:7][H:9])[N:4]([H:10])[H:11])([N:6]([H:14])[H:15])([H:16])[H:17]>>[C:1]([N:6]([H:14])[H:15])([N:8](/[C:3](=[N:2]/[N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[O:7][H:9])([H:16])[H:17],54.394210000030085
MR_432675_0,[C:1](=[C:3]([H:9])[H:10])([O:5][C:2](=[C:4]([H:11])[H:12])[H:8])[O:6][H:7]>>[C:1](=[C:3]([H:9])[H:10])([C:4]([C:2](=[O:5])[H:8])([H:11])[H:12])[O:6][H:7],71.27270500000506
MR_11252_1,[C:1]1([O:6][C:4]([C:3]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:8])[C:2]([H:9])([H:10])[O:7]1>>[C:1]([C:2](=[O:7])[H:9])([O:6][C:4]([C:3]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:8])[H:10],45.99386750001571
MR_603994_1,[C:1]([C:5](/[C:4](=[N:2]\[N:3]([H:8])[H:9])[H:10])([N:6]=[O:7])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:5](=[C:4](/[N:2]([N:3]([H:8])[H:9])[N:6]=[O:7])[H:10])[H:11])([H:12])([H:13])[H:14],29.94555500004921
MR_519661_0,[C:1]([N:3]([H:11])[H:12])([C:5]1([H:15])[C:2]([N:4]([H:13])[H:14])([H:10])[C:6]1([H:16])[H:17])([O:7][H:8])[H:9]>>[C:1]([C:2]([N:4]([H:13])[H:14])([C:5](=[C:6]([H:16])[H:17])[H:15])[H:10])([N:3]([H:11])[H:12])([O:7][H:8])[H:9],66.1748949999992
MR_392670_0,[C@:1]1([C:2]([H:10])([H:11])[H:12])([H:7])[C:4]([N:6]([H:8])[H:9])[C:5]1[C:3]([H:13])([H:14])[H:15]>>[C:1]1([C:2]([H:10])([H:11])[H:12])=[C:5]([C:3]([H:13])([H:14])[H:15])[C:4]1([N:6]([H:8])[H:9])[H:7],72.82137500000083
MR_201028_1,[C:1](\[C:2]([C:5](=[C:6]([H:15])[H:16])[H:11])([O:7][H:9])[H:8])([C:3]([H:12])([H:13])[H:14])=[N:4]/[H:10]>>[C:1]1([C:3]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])[C:2]([C:5](=[C:6]([H:15])[H:16])[H:11])([H:8])[O:7]1,36.86311499999064
MR_127678_0,[C:1](/[N:6]=[N:5]/[C:3]([C:2]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:6]1[C:4]([H:13])([H:14])[C:3]([C:2]([H:10])([H:11])[H:12])=[N:5]1)([H:7])([H:8])[H:9],41.35036750000424
MR_297890_1,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:8])[C:3]([N:4]([H:9])[H:10])([C:5](=[C:6]([H:16])[H:17])[H:12])[N:7]1[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([C:5](=[C:6]([H:16])[H:17])[H:12])=[N:7]/[H:11])([N:4]([H:9])[H:10])[H:8],73.19097250001292
MR_498734_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])(/[C:6]([O:8][H:10])=[N:9]/[C:5]([H:20])([H:21])[H:22])[O:7][C:2]([H:11])([H:12])[H:13]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C@:6]([O:7][C:2]([H:11])([H:12])[H:13])([O:8][H:10])[N:9]1[C:5]([H:20])([H:21])[H:22],72.5998675000072
MR_405610_1,[C:1](/[N:8]=[C:3]([C:6](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])\[H:12])/[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([O:7][H:9])=[C:6]([H:12])[C:4]1([C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],49.55618500001037
MR_597401_0,[C:1]([N:3]([H:10])[H:11])([O:5][O:6][H:8])(/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:9]>>[C:1](\[N:3]([H:10])[H:11])(=[N:7]/[C:4]([C:2]([H:13])([H:14])[H:15])([O:5][O:6][H:8])[H:12])[H:9],37.32809249999377
MR_603497_1,[N:1](\[N:2]([C:5]([C:4](=[O:6])[H:11])([O:7][H:9])[H:12])[H:8])=[N:3]/[H:10]>>[N:1]([N:2]([C:5](=[O:7])[H:12])[H:8])([N:3]([H:9])[H:10])[C:4](=[O:6])[H:11],63.29404249999613
MR_415220_0,[C:1](=[N:3]/[N:2]=[N:4]/[H:5])([H:6])[H:7]>>[C:1]1([H:6])([H:7])[N:3]=[N:2][N:4]1[H:5],35.49202750002806
MR_123816_0,[C:1](\[N:2]([H:6])[H:7])([C:3](=[C:4]([H:10])[H:11])[H:9])=[N:5]/[H:8]>>[C:1]1([N:2]([H:6])[H:7])=[C:3]([H:9])[C:4]([H:10])([H:11])[N:5]1[H:8],49.54489000000322
MR_57093_1,[C:1]([C:3](=[C:5]([H:13])[H:14])[O:7][C:2]([N:4]([H:8])[H:9])=[O:6])([H:10])([H:11])[H:12]>>[C:1]([C:3](=[C:5]([H:13])[H:14])[O:6][C:2]([N:4]([H:8])[H:9])=[O:7])([H:10])([H:11])[H:12],45.23208250001289
MR_283639_2,[C:1](/[C:4](=[C:6]([C:3]([H:19])([H:20])[H:21])\[C:5]([C:2]([H:16])([H:17])[H:18])=[N:9]/[N:7]([H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([O:8][H:10])[C:6]([C:3]([H:19])([H:20])[H:21])=[C:5]([C:2]([H:16])([H:17])[H:18])[N:9]1[N:7]([H:11])[H:12])([H:13])([H:14])[H:15],54.96774499997315
MR_159192_1,[C:1]1([C:4]([H:19])([H:20])[H:21])([H:11])[C:2]([H:13])([H:14])[C:5]([C:3]([H:16])([H:17])[H:18])([N:8]=[O:7])[C:6]1([N:9]([H:10])[H:12])[H:15]>>[C:1]([C:2](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]/[O:7][H:10])([H:13])[H:14])([C:4]([H:19])([H:20])[H:21])(/[C:6](=[N:9]/[H:12])[H:15])[H:11],21.60608000002384
